US09216980B2
5-(1-Ethylpiperidin-4-yloxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-3,6-dicarbonitrile
DMF (8 mL) was added to a mixture of 9-benzenesulfonyl-3-bromo-5-(1-ethyl-piperidin-4-yloxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (200 mg, 0.37 mmol), zinc cyanide (217 mg, 1.85 mmol) and tetrakis(triphenylphosphine) palladium(0) (43 mg, 0.04 mmol) and the reaction mixture heated under microwave irradiation at 150° C. for 30 min. Triethylamine (2 mL) was then added and the reaction mixture heated at 50° C. for 24 h. The mixture was diluted with saturated aqueous sodium bicarbonate solution (100 mL) and extracted into 10% MeOH in DCM (2×25 mL). The combined organic phase was adsorbed onto HM-N then purified by flash chromatography (silica, 12 g column, ISCO, 0-10% MeOH in DCM) to afford the title compound as a cream solid (6 mg, 5%). 1H NMR (DMSO-D6, 400 MHz): 9.07 (d, J=2.0 Hz, 1H), 8.99 (d, J=1.9 Hz, 1H), 8.84 (s, 1H), 4.86-4.76 (m, 1H), 2.97-2.87 (m, 2H), 2.42 (q, J=7.2 Hz, 2H), 2.23-2.13 (m, 2H), 2.12-1.94 (m, 4H), 1.03 (t, J=7.2 Hz, 3H). LCMS (Method H): RT=5.27 min, M+H+=347.

reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
reactant | 9-benzenesulfonyl-3-bromo-5-(1-ethyl-piperidin-4-yloxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.37 mmol, 200 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3OC3CCN(CC3)CC)C#N)C=C(C=N2)Br | C24H22BrN5O3S
reactant | Triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
catalyst | zinc cyanide | 1.85 mmol, 217 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.04 mmol, 43 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-(1-Ethylpiperidin-4-yloxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-3,6-dicarbonitrile | 6 mg, 5% | C(C)N1CCC(CC1)OC1=C(N=CC2=C1C1=C(N2)N=CC(=C1)C#N)C#N | C19H18N6O
